US05206395
2,3,8,9-Tetraphenylthio-6,11-dihydroxynaphthacene-5,12-dione.
50 g (116.8 mmol) of 2,3,8,9-tetrachloro-6,11-dihydroxynaphthacene-5,12-dione, 77.22 g (700.8 mmol) of thiophenol, 129.15 g (934 mmol) of potassium carbonate and 400 ml of dimethyl sulfoxide (DMSO) are stirred for 1 day at 100° C. The mixture is poured into a dilute aqueous solution of HCl and stirred. The red crude product is isolated by filtration, washed with water, dried at 140° C. under vacuum, then extracted three times by boiling with cyclohexanone and dried once more. Yield: 80.11 g (95%); melting point >260° C. MS: 722 (M+ ; base peak).

reactant | 2,3,8,9-tetrachloro-6,11-dihydroxynaphthacene-5,12-dione | 116.8 mmol, 50 g | ClC1=CC=2C(C3=C(C4=CC(=C(C=C4C(=C3C(C2C=C1Cl)=O)O)Cl)Cl)O)=O | C18H6Cl4O4
reactant | thiophenol | 700.8 mmol, 77.22 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 934 mmol, 129.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
product | 2,3,8,9-Tetraphenylthio-6,11-dihydroxynaphthacene-5,12-dione | C1(=CC=CC=C1)SC1=CC=2C(C3=C(C4=CC(=C(C=C4C(=C3C(C2C=C1SC1=CC=CC=C1)=O)O)SC1=CC=CC=C1)SC1=CC=CC=C1)O)=O | C42H26O4S4
